US04230850
4-(3'-Morpholino-2'-methylpropoxy)-3-phenyl-8-methyl-coumarin
Prepared according to the method of Example 8 from 4-hydroxy-8-methyl-3-phenyl-coumarin and 3-morpholino-2-methyl-1-chloropropane. An oil is obtained which cannot be crystallised. Yield 65%.

reactant | 4-hydroxy-8-methyl-3-phenyl-coumarin | OC1=C(C(OC2=C(C=CC=C12)C)=O)C1=CC=CC=C1 | C16H12O3
reactant | 3-morpholino-2-methyl-1-chloropropane | O1CCN(CC1)CC(CCl)C | C8H16ClNO
product | 4-(3'-Morpholino-2'-methylpropoxy)-3-phenyl-8-methyl-coumarin | Yield 65% | O1CCN(CC1)CC(COC1=C(C(OC2=C(C=CC=C12)C)=O)C1=CC=CC=C1)C | C24H27NO4
